US04218448
A stirred mixture of 6.0 g (0.02 mole) of α,α-bis(trifluoromethyl)-1,2,3,4-tetrahydro-6-quinolinemethanol, 2.6 g (0.02 mole) of ethyl acetoacetate, and 100 ml of xylene is refluxed for 16 hours. The mixture is allowed to cool and is evaporated. The residue is triturated with a mixture of toluene, ethyl acetate, and hexane (60:10:30). The insoluble portion is filtered off, washed with water, and dried to give 1.6 g (23%) of α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-1,2,3,4-tetrahydro-6-quinolinemethanol. C. A solution of 10.5 g (0.027 mole) of α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-1,2,3,4-tetrahydro-6-quinolinemethanol in 30 ml of concentrated sulfuric acid is heated on a steam bath for 30-45 minutes, cooled to approximately 60° C., and poured into ice. When the ice is melted, the precipitate is filtered off, washed with water, and dried. The solid is recrystallized from 2-ethoxyethanol to give 7.2 g (74% ) of 2,3-dihydro-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-7-methyl-1H,5H-benzo[ij]quinolizin-5-one, m.p. 295°-296°.

reactant | α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-1,2,3,4-tetrahydro-6-quinolinemethanol | 0.027 mole, 10.5 g | FC(C(O)(C=1C=C2CCCN(C2=CC1)C(CC(C)=O)=O)C(F)(F)F)(F)F | C16H15F6NO3
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-dihydro-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-7-methyl-1H,5H-benzo[ij]quinolizin-5-one | 7.2 g, 74% | FC(C(C(F)(F)F)(O)C1=CC=2C(=CC(N3CCCC(C23)=C1)=O)C)(F)F | C16H13F6NO2
